US07074819B2
Step 4) Synthesis of (3RS,4RS)-4-[8-(t-Butyldimethylsilyloxy)-1-octyl]-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman
4-[8-(t-Butyldimethylsilyloxy)-1-octynyl]-4-hydroxy-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman (14 g, 25.2 mmol) was dissolved in 1,2-dichloroethane (300 mL) and cooled to 0° C. Zinc iodide(II) (24.2 g, 75.69 mmol) and sodium cyanoborohydride (9.51 g, 151.38 mmol) was sequentially added and slowly warmed to room temperature and stirred for 2 hours. After the reaction was completed, the reaction solvent was removed under reduced pressure. The residue was poured into water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and removed by evaporation under vacuum. This product was purified by column chromatography on silica gel, eluting with 10% ethyl acetate in n-hexane. After removal of the solvent, crude 11 g of the title compound was obtained as pale yellow oil. (yield: 79.5%) Then, this compound thus obtained (11 g) was dissolved in tetrahydrofuran (300 mL). 0.2N NaHCO3(300 mL) and 10% palladium on carbon (3 g) was added and stirred for 2 day under hydrogen (atmospheric pressure). The reaction mixture was filtered through cellite and concentrated under reduced pressure. The residue was dissolved in ethyl acetate, which was washed with water and brine. The organic solvent was dried over anhydrous magnesium sulfate and removed by evaporation under vacuum. This product was purified by column chromatography on silica gel, eluting with ethyl acetate:n-hexane=1:40. After removal of the solvent, 5.6 g of the title compound was obtained as colorless oil. (yield: 50.5%).

reactant | 4-[8-(t-Butyldimethylsilyloxy)-1-octynyl]-4-hydroxy-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman | 25.2 mmol, 14 g | [Si](C)(C)(C(C)(C)C)OCCCCCCC#CC1(C(CSC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC)O | C32H46O4SSi
reactant | sodium cyanoborohydride | 151.38 mmol, 9.51 g | C(#N)[BH3-].[Na+]
solvent | 1,2-dichloroethane | 300 mL | ClCCCl | C2H4Cl2
product | (3RS,4RS)-4-[8-(t-Butyldimethylsilyloxy)-1-octyl]-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman | 11 g, yield: 79.5% | [Si](C)(C)(C(C)(C)C)OCCCCCCCCC1C(CSC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC | C32H50O3SSi
